US08791132B2
2,6-Dimethyl-1-phenyl-2,3,4,9-tetrahydro-1H-β-carboline (300 mg, 1.08 mmol) was dissolved in DMF (4 mL). Sodium hydride (172 mg, 4.32 mmol) was added and the mixture was stirred at RT for 30 min. 3-(2-Methyl-oxiranyl)-pyridine (733 mg, 5.43 mmol) in 1 mL DMF was added dropwise into the reaction mixture, which was stirred for 5 h at RT. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction was quenched with ice and extracted with EtOAc (2×100 mL). The organic layer was washed with water (2×100 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude that was purified by column chromatography (silica gel 100-200 mesh, Eluent: 6% MeOH in DCM) to obtain 120 mg of 1-(2,6-dimethyl-1-phenyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-2-pyridin-3-yl-propan-2-ol (racemate) and followed by chiral separation. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.25 (s, 1H), 8.2 (d, 1H), 7.6 (d, 1H), 7.4 (m, 3H), 7.2 (s, 1H), 7.19 (m, 3H), 6.65 (d, 1H), 6.4 (d, 1H), 5.5 (s, 1H), 4.0 (d, 1H), 3.43 (d, 1H), 3.2 (m, 1H), 3.0 (m, 3H), 2.6 (s, 3H), 2.3 (s, 3H), 1.6 (s, 3H). Separation by chiral HPLC provided diastereomers II-112a-b.

reactant | 2,6-Dimethyl-1-phenyl-2,3,4,9-tetrahydro-1H-β-carboline | 1.08 mmol, 300 mg | CN1C(C=2NC3=CC=C(C=C3C2CC1)C)C1=CC=CC=C1 | C19H20N2
reactant | Sodium hydride | 4.32 mmol, 172 mg | [H-].[Na+]
reactant | 3-(2-Methyl-oxiranyl)-pyridine | 5.43 mmol, 733 mg | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2,6-dimethyl-1-phenyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-2-pyridin-3-yl-propan-2-ol | 120 mg | CN1C(C=2N(C3=CC=C(C=C3C2CC1)C)CC(C)(O)C=1C=NC=CC1)C1=CC=CC=C1 | C27H29N3O
